### PR TITLE
[Merged by Bors] - feat: The norm of a complex-valued `AddChar`

### PR DESCRIPTION
**Pull request by YaelDillies**
From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 1]
```diff
@@ -1,15 +1,53 @@
...
 
-variable {K E : Type*} [RCLike K]
+variable {G K E : Type*}
+
+namespace AddChar
+section AddGroup
+variable [AddGroup G]
+
+section NormedField
+variable [Finite G] [NormedField K]
```
Comment (b-mehta) [inline Mathlib/Analysis/RCLike/Lemmas.lean:22]: This lemma and the one below it don't look like they belong in this file - they don't mention RCLike at all?

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 2]
```diff
@@ -1,15 +1,53 @@
...
+@[simp] lemma coe_ne_zero (ψ : AddChar G K) : (ψ : G → K) ≠ 0 :=
+  ne_iff.2 ⟨0, fun h ↦ by simpa only [h, Pi.zero_apply, zero_ne_one] using map_zero_eq_one ψ⟩
+
+end NormedField
+
+section RCLike
+variable [RCLike K]
+
+lemma inv_apply_eq_conj [Finite G] (ψ : AddChar G K) (x : G) : (ψ x)⁻¹ = conj (ψ x) :=
+  RCLike.inv_eq_conj $ norm_apply _ _
```
Comment (b-mehta) [inline Mathlib/Analysis/RCLike/Lemmas.lean:36]:
```suggestion
  RCLike.inv_eq_conj <| norm_apply _ _
```

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 3]
```diff
@@ -1,15 +1,53 @@
...
+
+end RCLike
+end AddGroup
+
+section AddCommGroup
+variable [AddCommGroup G] [RCLike K] {ψ₁ ψ₂ : AddChar G K}
+
+lemma map_neg_eq_conj [Finite G] (ψ : AddChar G K) (x : G) : ψ (-x) = conj (ψ x) := by
+  rw [map_neg_eq_inv, RCLike.inv_eq_conj $ norm_apply _ _]
```
Comment (b-mehta) [inline Mathlib/Analysis/RCLike/Lemmas.lean:45]: Can't you use `inv_apply_eq_conj` here?

File: Mathlib/Analysis/RCLike/Lemmas.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Analysis/RCLike/Lemmas.lean]: Maybe, but I don't know where else to put that one lemma

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 4]
```diff
@@ -1,15 +1,50 @@
...
 
+open Function
+open scoped ComplexConjugate
 
-variable {K E : Type*} [RCLike K]
+variable {G K E : Type*}
+
+namespace AddChar
+section AddGroup
+variable [AddGroup G]
```
Comment (loefflerd) [inline Mathlib/Analysis/RCLike/Lemmas.lean:19]:
```suggestion
variable [AddLeftCancelMonoid G]
```

File: Mathlib/Analysis/RCLike/Lemmas.lean [hunk 5]
```diff
@@ -1,15 +1,50 @@
...
+
+section NormedDivisionRing
+variable [Finite G] [NormedDivisionRing K]
+
+@[simp] lemma norm_apply (ψ : AddChar G K) (x : G) : ‖ψ x‖ = 1 :=
+  (ψ.toMonoidHom.isOfFinOrder <| isOfFinOrder_of_finite _).norm_eq_one
```
Comment (loefflerd) [inline Mathlib/Analysis/RCLike/Lemmas.lean:25]: This could perhaps go in `Analysis.NormedField.Basic`, next to `norm_eq_one`.

File: Mathlib/Analysis/RCLike/Lemmas.lean
Comment (loefflerd) [inline Mathlib/Analysis/RCLike/Lemmas.lean:1]: I think you may have accidentally a few unintentional changes in this file.

File: Mathlib/Analysis/RCLike/Lemmas.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Analysis/RCLike/Lemmas.lean]: (marking as resolved since the lemma has now been moved elsewhere)

**Comment by loefflerd** [comment]
LGTM

maintainer merge

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 6]
```diff
@@ -1022,3 +1018,14 @@ noncomputable def realLinearIsometryEquiv (h : I = (0 : K)) : K ≃ₗᵢ[ℝ] 
...
 end RCLike
+
+namespace AddChar
+variable {G : Type*} [Finite G]
+
+lemma inv_apply_eq_conj [AddLeftCancelMonoid G] (ψ : AddChar G K) (x : G) : (ψ x)⁻¹ = conj (ψ x) :=
+  RCLike.inv_eq_conj <| norm_apply _ _
+
+lemma map_neg_eq_conj [AddCommGroup G] (ψ : AddChar G K) (x : G) : ψ (-x) = conj (ψ x) := by
+  rw [map_neg_eq_inv, inv_apply_eq_conj]
```
Comment (MichaelStollBayreuth) [inline Mathlib/Analysis/RCLike/Basic.lean:1029]: Why is it `inv_apply` and `map_neg` (and not `apply_neg`)?

Comment (YaelDillies) [reply Mathlib/Analysis/RCLike/Basic.lean:1029]: Lemmas of the form `free_variable (op x ... z) = ...` are called `map_op`. Lemmas of the form `op (f x) ... (f z) = ...` are called `op_apply`.

Comment (MichaelStollBayreuth) [reply Mathlib/Analysis/RCLike/Basic.lean:1029]: I believe you, but I don't think this is very consistent...
